US04514332
t-butoxycarbonyl-2-methyl-D,L-leucine
To 4.35 g (30 mmole) of α-methyl-D,L-leucine dissolved in 30 ml each of 1M aqueous sodium hydroxide and t-butyl alcohol was added 7.6 ml (ca. 33 mmole) of di-t-butyl dicarbonate. After overnight stirring, the mixture was diluted with water and washed with two portions of pentane. The aqueous layer was acidified with 5% citric acid and extracted with three portions of ethyl acetate. The organic layers were combined and dried over magnesium sulfate, filtered, and concentrated in vacuo to dryness. The oily residue solidified to give 3.9 g of the title compound as a white solid, which was used in subsequent reactions without further purification.

reactant | α-methyl-D,L-leucine | 30 mmole, 4.35 g | CC(N)(CC(C)C)C(=O)O | C7H15NO2
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | di-t-butyl dicarbonate | ca. 33 mmole, 7.6 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 1M, 30 ml | [OH-].[Na+]
solvent | water | O | H2O
product | t-butoxycarbonyl-2-methyl-D,L-leucine | 3.9 g | C(C)(C)(C)OC(=O)NC(CC(C)C)(C(=O)O)C | C12H23NO4
